US05508272
a) (S)-2-Bromohexanoic acid
Potassium bromide (15.9 g., 133 mmol.) was added to a stirred solution of D-norleucine (5.0 g., 38 mmol.) in 2.5N sulfuric acid (77 ml.) at room temperature. The reaction mixture was cooled to -10° C. and solid sodium nitrite (3.94 g., 57 mmol.) was added portionwise, maintaining the temperature between -10° and -5° C. After addition was complete, the foamy reaction was stirred for 1 hour and then warmed to room temperature and stirred for another hour. The reaction mixture was then extracted twice with ether, the ether extracts were washed once with water, dried (magnesium sulfate), filtered and evaporated to give 3.3 g. of crude title product.

reactant | Potassium bromide | 133 mmol, 15.9 g | [Br-].[K+]
reactant | D-norleucine | 38 mmol, 5.0 g | N[C@H](CCCC)C(=O)O | C6H13NO2
reactant | sodium nitrite | 57 mmol, 3.94 g | N(=O)[O-].[Na+]
solvent | sulfuric acid | 2.5N, 77 ml | S(O)(O)(=O)=O | H2O4S
product | (S)-2-Bromohexanoic acid | Br[C@H](C(=O)O)CCCC | C6H11BrO2
